US07632857B2
(4-Bromo-phenyl)-[2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to General Procedure PP using commercially available 4-bromo benzoic acid, 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine, and thionyl chloride in place of oxalyl chloride. (MS (ES+) 352.3 (M+H)+

reactant | 4-bromo benzoic acid | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | (4-Bromo-phenyl)-[2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C17H23BrN2O
